US06977262B2
A solution of 1,1′-carbonylbis-1H-imidazole (22.5 g), ethanol (8.1 ml) and toluene (100 ml) was stirred at room temperature for 1.5 hours. To the reaction mixture was added ice-water (100 ml) and the mixture was extracted with ethyl acetate. The extract was washed with a saturated-aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (1:1)) to give a colorless oil (19.3 g). A solution of the obtained residue (19.3 g) and pyruvic aldehyde dimethyl acetal (11.1 ml) in toluene (50 ml) was added dropwise to a suspension of sodium hydride (8.44 g) in toluene (250 ml) under reflux with heating over 15 minutes, and the mixture was heated under reflux for 1.5 hours. To the reaction mixture was added a 10% aqueous citric acid solution (610 ml) and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (5:1)) to give ethyl 4,4-dimethoxy-3-oxobutanoate (15.1 g) as a colorless oil. Subsequently, ethyl 4-(2-chlorophenyl)-6-dimethoxymethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine-5-carboxylate was obtained as a yellow solid from 2-chlorobenzaldehyde, 3-aminopyrazole and ethyl 4,4-dimethoxy-2-oxobutanoate in the same manner as in Example 1. To a solution of ethyl 4-(2-chlorophenyl)-6-dimethoxymethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine-5-carboxylate (463 mg) in tetrahydrofuran (5 ml) was added 1N hydrochloric acid (10 ml) and the mixture was stirred at room temperature for 6 hours. To the reaction mixture was added a saturated aqueous sodium hydrogencarbonate solution and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (1:1)) to give ethyl 4-(2-chlorophenyl)-6-formyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine-5-carboxylate (290 mg) as a yellow solid. A solution of ethyl 4-(2-chlorophenyl)-6-formyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine-5-carboxylate (290 mg) and hydroxylamine-O-sulfonic acid (128.5 mg) in water (10 ml)-ethanol (10 ml) was stirred at 80° C. for 2 hours. To the reaction mixture was added a saturated aqueous sodium hydrogencarbonate solution and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (1:1)) and crystallized from ethanol-ethyl acetate to give the title compound (53 mg) as yellow crystals.

reactant | pyruvic aldehyde dimethyl acetal | 11.1 ml | CC(=O)C(OC)OC | C5H10O3
reactant | sodium hydride | 8.44 g | [H-].[Na+]
reactant | citric acid | 610 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4,4-dimethoxy-3-oxobutanoate | 15.1 g | COC(C(CC(=O)OCC)=O)OC | C8H14O5
